US05523475
2-fluoro-5-methoxy-4-propylphenol (4.52 g, 24.5 mmol) was dissolved in CH2Cl2 (100 mL), triethylamine (6.84 mL, 49.1 mmol) and 4-(N,N-dimethylamino)pyridine (5 mg, 0.04 mmol) was added and the solution was cooled to -70° C. Trifluoromethanesulfonic anhydride (6.19 mL, 36.8 mmol) was added dropwise during 20 min and the reaction was kept at -70° C. for another 20 min. CH2Cl2 (100 mL) was added and the solution was washed with water (50 mL) and brine (2×50 mL) followed by drying (MgSO4). Evaporation of the solvent gave 8.2 g of crude product. Filtration through SiO2 (70 g) using CH2Cl2 as eluent and purification by flash chromatography (SiO2, CH2Cl2 -hexane 1:2) gave 2-fluoro-5-methoxy-4-propylphenyl triflate (6.08 g) as an oil. 1H NMR (DMSO-d6): δ7.36 (d, J=11.0 Hz, 1H), 7.21 (d, J=6.4 Hz, 1H), 3.79 (s, 3H), 2.52 (t, J=7.7 Hz, 2H), 1.52 (m, J=7.5 Hz, 2H), 0.87 (t, J=7.4 Hz, 3H). 13C NMR (DMSO-d6): δ153.62 (d, J=242 Hz), 133.63 (d, J=15 Hz), 132.96 (d, J=6 Hz), 118.15 (q, J=320 Hz), 117.75 (d, J=20 Hz), 106.18, 56.51, 31.00, 21.92, 13.63. MS (EI, 70 eV): m/z (rel. int) 316 (M+, 100).

reactant | 2-fluoro-5-methoxy-4-propylphenol | 24.5 mmol, 4.52 g | FC1=C(C=C(C(=C1)CCC)OC)O | C10H13FO2
reactant | triethylamine | 49.1 mmol, 6.84 mL | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethanesulfonic anhydride | 36.8 mmol, 6.19 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 0.04 mmol, 5 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-fluoro-5-methoxy-4-propylphenyl triflate | 6.08 g | O(S(=O)(=O)C(F)(F)F)C1=C(C=C(C(=C1)OC)CCC)F | C11H12F4O4S
